US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (25.00 mg, 0.116 mmol), 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide (38.9 mg, 0.145 mmol) and (cyanomethyl)trimethylphosphonium iodide (45.2 mg, 0.186 mmol) in Propiononitrile (Volume: 1.0 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.101 mL, 0.581 mmol) at 23° C. The reaction was stirred at 95° C. for 6 hr. The suspension was cooled to 23° C., filtered, rinsed with ACN (3×1 mL) and dried in vacuo to provide 3-chloro-N-ethyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.0359 g, 0.077 mmol, 66.5% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (t, J=7.20 Hz, 3 H) 2.53-2.67 (m, 4 H) 2.98-3.14 (m, 4 H) 3.21-3.30 (m, 2 H) 3.65 (s, 2 H) 6.70-6.77 (m, 1 H) 7.08 (dd, J=3.54, 1.52 Hz, 1 H) 7.19 (d, J=8.59 Hz, 1 H) 7.58 (d, J=1.77 Hz, 1 H) 7.68 (dd, J=3.03, 1.52 Hz, 1 H) 7.77 (dd, J=8.34, 2.02 Hz, 1 H) 7.88 (d, J=2.02 Hz, 1 H) 8.37 (d, J=1.77 Hz, 1 H) 8.44 (t, J=5.43 Hz, 1 H) 11.63 (br. s., 1 H). ESI-MS: m/z 465.4 (M+H)+. mp=266.1-271.2° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.116 mmol, 25.00 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide | 0.145 mmol, 38.9 mg | ClC=1C=C(C(=O)NCC)C=CC1N1CCNCC1 | C13H18ClN3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.186 mmol, 45.2 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.581 mmol, 0.101 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Propiononitrile | 1.0 mL | C(CC)#N | C3H5N
product | 3-chloro-N-ethyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.077 mmol, 0.0359 g, 66.5% yield | ClC=1C=C(C(=O)NCC)C=CC1N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C24H25ClN6O2
